US07504417B2
3-Hydroxy-2-nitrobenzoic acid (2.00 g) was dissolved in 110 ml of N,N-dimethylformamide, then 1.53 g of 4-chloroaniline, 3.15 g of 1-ethyl-3-[3-(N,N-dimethylamino) propyl]carbodiimide hydrochloride and 2.21 g of 1-hydroxybenzotriazole were added thereto and the mixture was stirred at room temperature for 4 days. The reaction solution was concentrated in vacuo, a saturated saline was added to the concentrate and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by means of a silica gel column chromatography using chloroform:methanol (100:1) as an eluate to give 2.97 g of 4′-chloro-3-hydroxy-2-nitrobenzanilide.

reactant | 3-Hydroxy-2-nitrobenzoic acid | 2.00 g | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | 4-chloroaniline | 1.53 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 1-ethyl-3-[3-(N,N-dimethylamino) propyl]carbodiimide hydrochloride | 3.15 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 2.21 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 4′-chloro-3-hydroxy-2-nitrobenzanilide | 2.97 g | ClC1=CC=C(NC(C2=C(C(=CC=C2)O)[N+](=O)[O-])=O)C=C1 | C13H9ClN2O4
